US05102966
p-Methoxystyrene was polymerized in the same manner as in Example 10, and 25 ml (0.26 mole/1) of p-tert-butoxystyrene was thereafter added to the reaction mixture and further polymerized therewith at an elevated temperature of 25° C. Subsequently, methanol (330 mmoles/1) containing a small amount of ammonia water was added to the reaction system to terminate the polymerization and obtain a mixture containing a polymer. The mixture was washed first with a hydrochloric acid aqueous solution (8 vol. %) and then with water, followed by evaporation for the removal of the solvent, etc. to collect the polymer.

reactant | p-tert-butoxystyrene | 0.26 mole, 25 ml | C(C)(C)(C)OC1=CC=C(C=C)C=C1 | C12H16O
reactant | methanol | 330 mmoles | CO | CH4O
reactant | ammonia water | O.N
product | p-Methoxystyrene | COC1=CC=C(C=C)C=C1 | C9H10O
